US09193720B2
A mixture of (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (0.02 g, 0.044 mmol), (4-(pyridin-4-ylmethoxy)phenyl)boronic acid (0.020 g, 0.088 mmol) and 2M Na2CO3 (0.055 ml, 0.110 mmol) in DMF (1 mL) was degassed for 3 min. Then, Pd(Ph3P)4 (5.07 mg, 4.39 μmol) was degassed for 1 min and placed in a pre-heated oil bath at 90° C. After 9 h, cooled and purified by prep-HPLC to afford (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-(pyridin-4-ylmethoxy)phenyl)pyridin-3-yl)acetate (0.013 g, 0.023 mmol, 52.9% yield) as brown paste. LCMS (M+H)=560.4.

reactant | (S)-ethyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.044 mmol, 0.02 g | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OCC)OC(C)(C)C)N1CCC(CC1)(C)C | C22H35BrN2O3
reactant | (4-(pyridin-4-ylmethoxy)phenyl)boronic acid | 0.088 mmol, 0.020 g | N1=CC=C(C=C1)COC1=CC=C(C=C1)B(O)O | C12H12BNO3
reactant | Na2CO3 | 0.110 mmol, 2M, 0.055 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Pd(Ph3P)4 | 4.39 μmol, 5.07 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-(pyridin-4-ylmethoxy)phenyl)pyridin-3-yl)acetate | 0.023 mmol, 0.013 g, 52.9% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CC=NC=C1)C)C | C34H45N3O4
